US08304557B2
N-{3-[(5-aminopyridin-2-yl)oxy]phenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide
To a solution of 1,3-dimethyl-N-{3-[(5-nitropyridin-2-yl)oxy]phenyl}-1H-pyrazole-5-carboxamide (2.26 g, 6.40 mmol) in methanol (20 mL) was added palladium carbon (50% water-containing product, 200 mg), and the mixture was stirred under a hydrogen atmosphere at room temperature for 5 hr. The reaction mixture was filtered through celite, and the filtrate was concentrated under reduced pressure. The residue was collected by filtration and washed with ethyl acetate-hexane to give the title compound (1.77 g, 86%) as a white solid.

reactant | 1,3-dimethyl-N-{3-[(5-nitropyridin-2-yl)oxy]phenyl}-1H-pyrazole-5-carboxamide | 6.40 mmol, 2.26 g | CN1N=C(C=C1C(=O)NC1=CC(=CC=C1)OC1=NC=C(C=C1)[N+](=O)[O-])C | C17H15N5O4
solvent | methanol | 20 mL | CO | CH4O
catalyst | palladium carbon | 200 mg | [C].[Pd]
product | N-{3-[(5-aminopyridin-2-yl)oxy]phenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide | 1.77 g, 86% | NC=1C=CC(=NC1)OC=1C=C(C=CC1)NC(=O)C1=CC(=NN1C)C | C17H17N5O2
